US05854268
2. (3R)-3-[(Benzylthio)methyl]pyrrolidine
To a stirred solution of (3R)-3-(benzylthio)methyl-1-(tert-butoxycarbonyl)pyrrolidine (0.2320 g, 0.755 mmol) in dichloromethane (3 ml), under argon, was added trifluoroacetic acid (1 ml) and the mixture was stirred at room temperature for 65 minutes before quenching with anhydrous methanol (2 ml) and evaporating in vacuo. More methanol (2 ml) was added to the residue and removed in vacuo. The residual oil was then dissolved in dichloromethane (25 ml) and washed with 2N NaOH solution (10 ml). The aqueous layer was reextracted with more dichloromethane (15 ml) and the combined dichloromethane extracts were washed with saturated NaCl solution (10 ml), dried (Na2SO4) and evaporated in vacuo. The residue was purified by flash chromatography (silica gel, CH2Cl2 /MeOH/NH3, 85:15:1.5) to give 0.1210 g (77%) of the title compound as a colourless oil. δH (250 MHz,CDCl3) 1.41 (1H, m), 1.90-2.00 (1H, m), 2.24 (1H, m), 2.42-2.50 (2H, m), 2.57 (1H, dd, J=6.5 and 11.0 Hz), 2.82-2.99 (2H, m), 3.07 (1H, dd, J=7.3 and 11.0 Hz), 3.72 (2H, s), 7.20-7.36 (5H, m); m/e (ES) 208 (M+ +1).

reactant | (3R)-3-(benzylthio)methyl-1-(tert-butoxycarbonyl)pyrrolidine | 0.755 mmol, 0.2320 g | C(C1=CC=CC=C1)SC[C@H]1CN(CC1)C(=O)OC(C)(C)C | C17H25NO2S
reactant | trifluoroacetic acid | 1 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | (3R)-3-[(Benzylthio)methyl]pyrrolidine | 0.1210 g, 77% | C(C1=CC=CC=C1)SC[C@H]1CNCC1 | C12H17NS
